* Z:\home\anindya\GH\Sadiku\Prac_05_11.asc
* Generated by LTspice 24.1.10 for Windows.
X§U1 N005 N001 N003 N006 N004 ua741 ;§pnba In+)In-)V+)V-)OUT
V1 N003 0 15
V2 0 N006 15
V3 N005 0 1
R1 N001 N004 40k
R2 N004 0 20k
R3 N001 0 5k
.op
.inc uA741.lib
.backanno
.end
